US04086417
Following the same procedure as above using myristic anhydride, pentadecanoic anhydride, palmitic anhydride, margaric anhydride, nonadecanoic anhydride, arachidic anhydride, heneicosanic anhydride, behenic anhydride, palmitoleic anhydride, and oleic anhydride, respectively in place of stearic anhydride, the following salts were obtained:

reactant | myristic anhydride | C(CCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCC)=O | C28H54O3
reactant | pentadecanoic anhydride | C(CCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCC)=O | C30H58O3
reactant | palmitic anhydride | C(CCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCC)=O | C32H62O3
reactant | margaric anhydride | C(CCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCC)=O | C34H66O3
reactant | nonadecanoic anhydride | C(CCCCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCCCC)=O | C38H74O3
reactant | arachidic anhydride | C(CCCCCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCCCCC)=O | C40H78O3
reactant | heneicosanic anhydride | C(CCCCCCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCCCCCC)=O | C42H82O3
reactant | behenic anhydride | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCCCCCCC)=O | C44H86O3
reactant | palmitoleic anhydride | C(CCCCCCC\C=C/CCCCCC)(=O)OC(CCCCCCC\C=C/CCCCCC)=O | C32H58O3
reactant | oleic anhydride | C(CCCCCCC\C=C/CCCCCCCC)(=O)OC(CCCCCCC\C=C/CCCCCCCC)=O | C36H66O3
product | stearic anhydride | C(CCCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCCC)=O | C36H70O3
